US05258382
Preparation of 2-benzyloxycarbonylmethyl-2-(pyrrol-1-yl)malonic acid diethyl ester:
To a stirred solution of 2-(pyrrol-1-yl)malonic acid diethyl ester (53.0 g) in anhydrous dimethylformamide (300 ml) was added portionwise sodium hydride (63% dispersion in mineral oil, 10.0 g) under ice cooling. The resulting mixture was stirred at 25° C. for 30 minutes and thereto was added benzyl bromoacetate (70.1 g). After stirring at 25° C. for 15 hours, the reaction mixture was poured into water and extracted with ethyl acetate. The extracts were dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was chromatographed on silica gel using n-hexane/ethyl acetate (10:1) as the eluent. Fractions containing the title compound were pooled and evaporated under reduced pressure to give the title compound (80.0 g, 91.0%) as a colorless oil.

reactant | 2-(pyrrol-1-yl)malonic acid diethyl ester | 53.0 g | C(C)OC(C(C(=O)OCC)N1C=CC=C1)=O | C11H15NO4
reactant | sodium hydride | 10.0 g | [H-].[Na+]
reactant | benzyl bromoacetate | 70.1 g | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 2-benzyloxycarbonylmethyl-2-(pyrrol-1-yl)malonic acid diethyl ester | 80.0 g, 91.0% | C(C)OC(C(C(=O)OCC)(N1C=CC=C1)CC(=O)OCC1=CC=CC=C1)=O | C20H23NO6
